### PR TITLE
Add a proof of the fact that `Fin (m + n) ≡ (Fin m) ⊎ (Fin n)` (closes #468)

### LINKED ISSUE #468: Proof of `Fin (m + n) ≡ (Fin m) ⊎ (Fin n)`
While working on something, I had to write down a proof of this fact as I couldn't find it in `cubical`. It's possible that it is here and I failed to find it. If that's not the case though, I can send a PR with it.

### PR DESCRIPTION
**Pull request by ayberkt**
*Closes* #468.

@mortberg: I suppose I should move some of the arithmetic stuff in `Nat.Order`? Also, I think many of the arithmetic proofs can be simplified by making better use of the theorems from `Nat.Order` and `Nat.Properties`. Let me know if you have any suggestions!

### CODE REVIEW

File: Cubical/Data/Fin/Properties.agda [hunk 1]
```diff
@@ -514,3 +514,75 @@ factorEquiv {suc n} {m} = intro , isEmbedding×isSurjection→isEquiv (isEmbeddi
...
+    sec-f-g : section f g
+    sec-f-g (inl (k , k<m)) with k ≤? m
+    sec-f-g (inl (k , k<m)) | inl _   = cong inl (Σ≡Prop (λ _ → m≤n-isProp) refl)
+    sec-f-g (inl (k , k<m)) | inr m≤k = Empty.rec (¬-<-and-≥ k<m m≤k)
+    sec-f-g (inr (k , k<n)) with (m + k) ≤? m
+    sec-f-g (inr (k , k<n)) | inl p   = Empty.rec (¬m+n<m {m} {k} p)
+    sec-f-g (inr (k , k<n)) | inr k≥m = cong inr (Σ≡Prop (λ _ → m≤n-isProp) rem)
+      where
+        rem : (m + k) ∸ m ≡ k
+        rem = subst (λ - → - ∸ m ≡ k) (sym (+-comm m k)) (m+n∸n=m m k)
```
Comment (ice1000) [inline Cubical/Data/Fin/Properties.agda:583]: I guess you can do `+-comm k m` instead of `sym (+-comm m k)`

Comment (ayberkt) [reply Cubical/Data/Fin/Properties.agda]: Done.

**Comment by ayberkt** [comment]
The Travis check is failing with message

```
GNUmakefile:20: recipe for target 'check-whitespace' failed
```

and I'm not sure what the problem is. Could someone explain what's wrong?

**Comment by ice1000** [comment]
Try to run `make fix-whitespace`

**Comment by ayberkt** [comment]
@ice1000 thanks. The Travis check is now passing.

**Review by ice1000 — APPROVED** [review]

**Comment by ayberkt** [comment]
Marked this as ready now. Feel free to merge.

File: Cubical/Data/Fin/Properties.agda [hunk 2]
```diff
@@ -514,3 +514,75 @@ factorEquiv {suc n} {m} = intro , isEmbedding×isSurjection→isEquiv (isEmbeddi
...
+∸-lemma {suc m} {zero}  m≤k = Empty.rec (¬-<-and-≥ (suc-≤-suc zero-≤) m≤k)
+∸-lemma {suc m} {suc k} m≤k =
+  suc m + (suc k ∸ suc m)   ≡⟨ refl                                 ⟩
+  suc (m + (suc k ∸ suc m)) ≡⟨ refl                                 ⟩
+  suc (m + (k ∸ m))         ≡⟨ cong suc (∸-lemma (pred-≤-pred m≤k)) ⟩
+  suc k                     ∎
+
+Fin+≃Fin⊎Fin : (m n : ℕ) → Fin (m + n) ≡ (Fin m) ⊎ (Fin n)
+Fin+≃Fin⊎Fin m n = isoToPath (iso f g sec-f-g ret-f-g)
+  where
```
Comment (Saizan) [inline Cubical/Data/Fin/Properties.agda:564]: Can you make the isomorphism its own toplevel definition, using copatterns?

**Review by Saizan — CHANGES_REQUESTED** [review]

File: Cubical/Data/Fin/Properties.agda (hunk 2 above)
Comment (ayberkt) [reply Cubical/Data/Fin/Properties.agda:564]: Done now. This style is used in `cubical` for performance reasons, right? Maybe I should start doing this in my own code because I'm often having this problem where Agda takes more than a couple of minutes every time I load the file.

Comment (Saizan) [reply Cubical/Data/Fin/Properties.agda:564]: Thanks!

Indeed, this style of definition prevents the iso from getting expanded prematurely.

**Review by Saizan — APPROVED** [review]

**Comment by mortberg** [comment]
Thanks for the contribution and sorry for the slow merging!
